US08791161B2
N[2-(benzylthio)-5-cyanophenyl]-1-benzofuran-2-sulfonamide
Following General Procedure B, the title compound (419 mg, 65%) was prepared from 3-amino-4-(benzylthio)benzonitrile (370 mg, 1.54 mmol) and benzofuran-2-sulfonyl chloride (333 mg, 1.54 mmol) in pyridine (3 ml).

reactant | 3-amino-4-(benzylthio)benzonitrile | 1.54 mmol, 370 mg | NC=1C=C(C#N)C=CC1SCC1=CC=CC=C1 | C14H12N2S
reactant | benzofuran-2-sulfonyl chloride | 1.54 mmol, 333 mg | O1C(=CC2=C1C=CC=C2)S(=O)(=O)Cl | C8H5ClO3S
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | N[2-(benzylthio)-5-cyanophenyl]-1-benzofuran-2-sulfonamide | 419 mg, 65% | C(C1=CC=CC=C1)SC1=C(C=C(C=C1)C#N)NS(=O)(=O)C=1OC2=C(C1)C=CC=C2 | C22H16N2O3S2
